US07402598B2
(iii) 7-Acetyl-4-(benzyloxy)-1,3-benzothiazol-2(3H)-one
To a solution of 7-acetyl-4-hydroxy-1,3-benzothiazol-2(3H)-one (153 mg), in dry THF (3 ml) and dry DMF (0.5 ml) under nitrogen, was added N,N-diisopropylethylamine (0.13 ml) and benzyl bromide (0.09 ml), and the mixture stirred for 72 h. Water (10 ml) was added and the mixture extracted with ethyl acetate. The organic phases were combined, washed with brine, dried (MgSO4), and evaporated in vacuo. The residue was purified on a 5 g silica SPE cartridge, eluting with a stepped gradient of 10% to 50% ethyl acetate-cyclohexane mixtures, to give the title compound (68 mg). LCMS RT=3.14 min.

reactant | 7-acetyl-4-hydroxy-1,3-benzothiazol-2(3H)-one | 153 mg | C(C)(=O)C1=CC=C(C=2NC(SC21)=O)O | C9H7NO3S
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | N,N-diisopropylethylamine | 0.13 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl bromide | 0.09 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | Water | 10 ml | O | H2O
product | 7-Acetyl-4-(benzyloxy)-1,3-benzothiazol-2(3H)-one | 68 mg | C(C)(=O)C1=CC=C(C=2NC(SC21)=O)OCC2=CC=CC=C2 | C16H13NO3S
